US05358953
Fuming nitric acid (40 ml, 1.5 g/ml) was added dropwise with stirring to acetic anhydride (80 ml ) keeping the temperature of the mixture at 0° C. After the addition was complete 2-cyanoindane (11.33 g, 79.5 mmol), (J. Chem. Soc. (B), (1969), 1197) was added dropwise with stirring over 30 minutes maintaining the reaction temperature between -5° and 0° C. The mixture was stirred for a further 15 minutes then poured onto ice. The mixture was extracted with dichloromethane (4×150 ml) and the extracts were washed with saturated aqueous sodium bicarbonate (3×150 ml), dried over magnesium sulphate and the solvent evaporated under reduced pressure. The residue was recrystallised from ethanol to give 2-cyano-5-nitroindane (12.09 g, 81%) as a yellow solid, m.p. 80°-82° C.

reactant | nitric acid | 40 ml | [N+](=O)(O)[O-] | HNO3
reactant | 2-cyanoindane | 79.5 mmol, 11.33 g | C(#N)C1CC2=CC=CC=C2C1 | C10H9N
solvent | acetic anhydride | 80 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-cyano-5-nitroindane | 12.09 g, 81% | C(#N)C1CC2=CC=C(C=C2C1)[N+](=O)[O-] | C10H8N2O2
